US09193720B2
To a mixture of (S)-ethyl 2-(5-bromo-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate (30 mg), (6-(4-fluorophenethoxy)pyridin-3-yl)boronic acid (18.9 mg) and Cs2CO3 (42.9 mg) in 1,4-dioxane (2 mL) and water (0.4 mL) was added Pd(PPh3)4 (7.6 mg). The mixture was flushed with nitrogen and then heated at 85° C. for 3 h. The mixture was diluted with water and then extracted with EtOAc (2×20 mL). The organic layers were combined, washed with brine and concentrated to give a residue, which was purified by the preparative HPLC to give (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-6′-(4-fluorophenethoxy)-2,6-dimethyl-[3,3′-bipyridin]-5-yl)acetate (3.6 mg). LCMS (M+H)=592.5.

reactant | (S)-ethyl 2-(5-bromo-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate | 30 mg | BrC=1C(=C(C(=NC1C)C)[C@@H](C(=O)OCC)OC(C)(C)C)N1CCC(CC1)(C)C | C22H35BrN2O3
reactant | (6-(4-fluorophenethoxy)pyridin-3-yl)boronic acid | 18.9 mg | FC1=CC=C(CCOC2=CC=C(C=N2)B(O)O)C=C1 | C13H13BFNO3
reactant | Cs2CO3 | 42.9 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.4 mL | O | H2O
catalyst | Pd(PPh3)4 | 7.6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-6′-(4-fluorophenethoxy)-2,6-dimethyl-[3,3′-bipyridin]-5-yl)acetate | 3.6 mg | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=C(C(=NC1C)C)C=1C=NC(=CC1)OCCC1=CC=C(C=C1)F)N1CCC(CC1)(C)C | C35H46FN3O4
